US06172057B2
1-Butyl-4-(4-methoxy-benzenesulfonyl)-piperidine-4-carboxylic acid was prepared starting from 1-butyl-4-(4-methoxy-benzenesulfonyl)-piperidine-4-carboxylic acid ethyl ester (6.42 g 16.8 mmol) dissolved in methanol (200 ml) and 10 N NaOH (20 ml). The resulting reaction mixture was worked up as outlined in example 83. Yield 1.6 g (27%); white powder; mp 206 ° C.; MS: 356.4 (M+H)+.

reactant | 1-butyl-4-(4-methoxy-benzenesulfonyl)-piperidine-4-carboxylic acid ethyl ester | 16.8 mmol, 6.42 g | C(C)OC(=O)C1(CCN(CC1)CCCC)S(=O)(=O)C1=CC=C(C=C1)OC | C19H29NO5S
solvent | methanol | 200 ml | CO | CH4O
solvent | NaOH | 10 N, 20 ml | [OH-].[Na+]
product | 1-Butyl-4-(4-methoxy-benzenesulfonyl)-piperidine-4-carboxylic acid | C(CCC)N1CCC(CC1)(C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OC | C17H25NO5S
